US06306852B1
Ethyl(E)-3-[3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]-2-propenoate
Palladium acetate (9.5 mg, 0.042 mmol) was added to a stirred solution of 3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-6-bromo-1-methyl-1H-indole (the product of Example 56, 200 mg, 0.35 mmol), ethyl acrylate (0.048 ml, 0.44 mmol), triethylamine (0.146 ml, 1 mmol) and tri-o-tolylphosphine (32 mg, 0.1 mmol) in acetonitrile (10 ml) at room temperature under a nitrogen atmosphere. The solution was heated at reflux for 2 h. After cooling the mixture was poured into brine (50 ml) and extracted with ethyl acetate (2×50 ml). The organic layers were washed with water (50 ml), dried (MgSO4) and concentrated to give a grey foam. Purification by flash column chromatography (elution with 95% dichloromethane/5% methanol) gave the product as a pale yellow foam.

reactant | 3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-6-bromo-1-methyl-1H-indole | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)Br)C | C27H25BrN2O5S
reactant | ethyl acrylate | 0.44 mmol, 0.048 ml | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 1 mmol, 0.146 ml | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.1 mmol, 32 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | brine | 50 ml | [Cl-].[Na+].O
catalyst | Palladium acetate | 0.042 mmol, 9.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl(E)-3-[3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]-2-propenoate | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)/C=C/C(=O)OCC)C | C32H32N2O7S
